* lepton-netlist -g spice-sdb -o out.net example1.sch
*********************************************************
* Spice file generated by lepton-netlist                *
* spice-sdb by SDB                                      *
* provides advanced spice netlisting capability.        *
* Documentation at wiki.geda-project.org/geda:csygas    *
*********************************************************
*==============  Begin SPICE netlist of main design ============
R1 1 out 1k
R2 0 out 1k
V1 1 0 DC 5V
.end
