* lepton-netlist -g spice-sdb -o step-resp-RC-circuit.net step-resp-RC-circuit.sch
*********************************************************
* Spice file generated by lepton-netlist                *
* spice-sdb by SDB                                      *
* provides advanced spice netlisting capability.        *
* Documentation at wiki.geda-project.org/geda:csygas    *
*********************************************************
*==============  Begin SPICE netlist of main design ============
C1 0 C 1u
R1 1 C 1k
V1 1 0 dc 0 pulse 0 5 1m 1n 1n 1m 2m
.end
